Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Lip swelling 
 
Major Surgical or Invasive Procedure:
None. 
 
History of Present Illness:
Mr. ___ is a ___ ___ M with history of HIV (on 
Atripla) and HTN (on lisinopril, amlodipine) who presents with 
progressive angioedema since the morning of ___.  Patient states 
that his symptoms developed shortly after taking his BP 
medications yesterday morning-- he had not eaten yet that AM, 
was drinking his morning coffee. He describes his symptoms as 
swelling of his lips, change in his voice, and mild throat 
swelling. Sx progressed over the course of the day yest, was 
most severe last night, and had been improving since this 
morning. No rashes or pruritis. Patient states that he has had 
similar symptoms in the past about ___ years ago, at which time it 
was less severe--resolved on its own. He has been on lisinopril 
for many years, denies any new or changes in his medications. 
Has not eaten anything out of the ordinary. No family history of 
angioedema. No pets.

In the ED, initial vitals:  98.4; 84; 147/78; 18; 97% RA  
On exam, was found to have erythema of bilateral lips, anterior 
tongue erythema without swelling, no uvular deviation or 
swelling,and lungs CTAB without stridor. Patient was given IV 
Methylpred 125mg, Famotidine 20mg, Diphenhydramine 50mg, 
Icatibant 30mg. Labs were significant for a wbc of 8.9, H/H 
___, Plt 364; BMP unremarkable.

On arrival to the MICU, VSS. Patient comfortable and denying 
resp distress. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies cough, shortness of breath, or wheezing. Denies 
chest pain, chest pressure, palpitations, or weakness. Denies 
nausea, vomiting, diarrhea, constipation, abdominal pain, or 
changes in bowel habits. Denies rashes or skin changes.  
 

 
Past Medical History:
HIV
HTN
HLD
Anxiety
PPD POSITIVE ___: s/p RIF/PZA ___
 
Social History:
___
Family History:
No family hx of angioedema. Otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T: 98 BP:128/78 P: 72 R: 18 O2: 98 on RA  
GENERAL: Alert, oriented, no acute distress , comfortable 
HEENT: Sclera anicteric, MMM, mild swelling of the lips b/l, 
uvula midline though difficult to visualize due to patients 
anatomy, structural abnormality of the hard palate (consistent 
with torus ___, some very minimal swelling of the left 
anterior tongue without erythema   
NECK: supple 
LUNGS: Clear to auscultation bilaterally, slight wheezes at R 
Lung base (resolved with cough), good air movement, no inc WOB, 
no stridor  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  No rashes noted on exam

DISCHARGE PHYSICAL EXAM
Vitals: ___  BP:118/67 P:78 R:18  O2:95% on RA  
GENERAL: Alert, oriented, no acute distress , comfortable 
HEENT: Sclera anicteric, MMM, uvula midline though difficult to 
visualize due to patients anatomy, structural abnormality of the 
hard palate (consistent with torus ___, 
NECK: supple 
LUNGS: Clear to auscultation bilaterally, slight wheezes at R 
Lung base (resolved with cough), good air movement, no inc WOB, 
no stridor  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  No rashes noted on exam; there is a 3cmx1cm erythematous, 
non-tender ovoid-shaped mass located on the left flank with 
overlying skin hyperpigmentation, no fluctuance or open area of 
drainage appreciated
 
Pertinent Results:
LABS
==============
___ 10:03AM BLOOD WBC-8.9# RBC-4.32* Hgb-13.0* Hct-39.1* 
MCV-91 MCH-30.1 MCHC-33.2 RDW-13.3 RDWSD-43.8 Plt ___
___ 10:03AM BLOOD Neuts-65 Bands-0 ___ Monos-10 Eos-0 
Baso-0 Atyps-3* ___ Myelos-0 AbsNeut-5.79 AbsLymp-2.23 
AbsMono-0.89* AbsEos-0.00* AbsBaso-0.00*
___ 10:03AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 10:03AM BLOOD Plt Smr-NORMAL Plt ___
___ 10:03AM BLOOD Glucose-94 UreaN-9 Creat-1.0 Na-142 K-4.5 
Cl-105 HCO3-26 AnGap-16
___ 10:03AM BLOOD C4-___ with hx of HIV, HTN, who presents with angioedema for the 
past 48 hours, now improving on exam s/p steroids and C1 
esterase blockade.

#Angioedema: Patient presented with ~48 hours of lip, anterior 
tongue, and throat swelling concerning for angioedema. Symptoms 
have been improving throughout the day, and he is now s/p 
methylpred, diphenhydramine, and icatibant in the ED. The most 
likely etiology of his angioedema is his ACE-inhibitor, which 
was discontinued on admission. While allergic and hereditary 
causes cannot be ruled out at this time, these are less likely 
as he has not had any other allergic symptoms (rash, urticaria), 
there are no other obvious triggers (foods, meds) and he denies 
a family hx. He was started on prednisone 40mg QD for a total 5 
day course, zyrtec, and famotidine.  Notably, patient has had 
similar episodes in the past that were self-resolving and lasted 
only ~48 hours.  However, given possibility for need of acute 
respiratory support, patient was monitored in the ICU overnight. 
 Patient did well overnight without any breathing complaints; he 
was able to tolerate PO and felt subjectively improved. He was 
discharged home with close follow up with his PCP on ___ 
40 mg QD for a total 5 day course, Zyrtec, Famotidine.  C4 level 
was pending at discharge.

#HTN: BP meds held on admission given concern for complications 
from angioedema.  BPs remained stable throughout stay.  At 
discharge, he was restarted on his home amlodipine.  His 
lisinopril was discontinued. 

#HIV: Continued Atripla.

#DM: Continued home Metformin.

TRANSITIONAL ISSUES
===================
-angioedema thought ___ lisinopril, discontinued; can consider 
starting ___
-C4 level pending at discharge

# Communication: HCP: None 
# Code: Full, confirmed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
QHS 
3. Rosuvastatin Calcium 20 mg PO DAILY 
4. Lisinopril 80 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Rosuvastatin Calcium 20 mg PO DAILY 
4. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACTIVE 
#Angioedema

CHRONIC 
#HTN
#HIV
#DM
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for lip swelling. We think this is 
likely due to the medication you were taking called Lisinopril, 
a category of medications call ACE-Inhibitors. YOU SHOULD NEVER 
TAKE lisinopril or an ACE inhibitor. When doctors/nurses ask 
about your allergies, you should always say that you have an 
allergy to lisinopril and that it caused you to have a condition 
called angioedema (lip/tounge/throat swelling). 

While you were in the hospital, you were treated with steroids, 
Benadryl and a medication to stop the effects of lisinopril 
called icatibant. You lip and tongue swelling were much improved 
when you left the hospital. 

You should return to the hospital if you feel short of breath, 
or if you feel your tongue and lips are swelling. 

Thank you for allowing us to participate in your care. Be Well! 
___ care team. 

-Por favor DISCONTINUE ___ medicamento LISINOPRIL para ___ 
___ angioedema
-Por favor ___ una ___ con ___ doctor ___
-Por favor ___ doctor ___ hospital si tiene: 
Ruidos respiratorios anormales (estridor)
Dificultad respiratoria
Desmayo
Sibilancias

 
Followup Instructions:
___